* Z:\home\ostoja\Elektronika\LNWB_BJT\201_bandwidth_sim.asc
V1 12V 0 12
V2 -15V 0 -15
V7 N004 0 SINE(0 0.02m {f})
R10 12V N002 1.5k
R11 12V N003 1.5k
C4 N006 N005 100n
R14 N005 N004 50
R15 N006 0 50
R24 20x_OUTPUT N007 2k
R25 N007 0 50
C11 20x_OUTPUT N007 5p
Q5 N002 N006 N009 0 2N4401
Q6 N003 N007 N009 0 2N4401
V3 -5V 0 -5
V4 5V 0 5
D1 N011 0 1N4148
D2 N006 N011 1N4148
D3 N010 N006 1N4148
D4 0 N010 1N4148
B1 N012 0 V=V(20x_OUTPUT)
C3 out_1 N012 10000
R3 out_1 0 1m
D7 N015 -5V 1N4148
D8 N014 N015 1N4148
R2 12V N014 10k
R4 N009 -5V 330
XU1 N003 N002 5V -5V 20x_OUTPUT AD8009an
B2 N008 0 V=V(out_1)
D5 N008 max_1 MyIdealDiode
C1 max_1 0 1µ
D6 min_1 N008 MyIdealDiode
C2 min_1 0 1µ
B3 N013 0 V=V(max_1) - V(min_1)
R5 12V N016 1k
Q1 12V N019 N020 0 2N4401
Q2 N016 0 N020 0 2N4401
R6 N020 -5V 200
R1 N019 0 50
C5 N019 N018 10µ
V5 N017 0 SINE(0 0.02m {f})
R7 N018 N017 50
.model D D
.lib C:\users\ostoja\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\ostoja\Documents\LTspiceXVII\lib\cmp\standard.bjt
.lib Z:\home\ostoja\Elektronika\LNWBA\LSK389B.lib
.tran 200u
.lib Z:\home\ostoja\Elektronika\LNWBA\lm7171.lib
.lib Z:\home\ostoja\Elektronika\LNWBA\LM6171A.MOD
.param Trim = 100
* 40x
* 0.5x
.step param f list 100k 1Meg 5Meg 9Meg 13Meg 17Meg 21Meg 25Meg
.ic V(m1) = 0
.model MyIdealDiode D(Ron=1 Roff=100Meg Vfwd=0 Vrev=20)
.lib AD8009an.sub
.backanno
.end
